data/mechanism_extracts/OrgLett/10.1021_acs.orglett.2c02976.json
{"doi": "10.1021_acs.orglett.2c02976", "journal": "OrgLett", "is_review": false, "rxn_class_summary": "electroreductive three-component dicarbofunctionalization of styrenes with aryl iodides and unactivated alkyl iodides via Ni catalysis", "mechanism_family": ["radical_cathodic", "electrocatalysis_inner_sphere", "sacrificial_anode"], "electrochemical_role": "cathodic reduction of Ni(II) precatalyst to Ni(0) initiates the cycle; Ni(II) species (G) generated after alkyl iodide activation is re-reduced cathodically to Ni(0); sacrificial Fe anode provides counter-oxidation (M to M^n+)", "key_intermediates": [{"name": "Ni(0)Ln (A)", "smiles": null, "role": "reactive"}, {"name": "Ar-Ni(II)-I arylnickel(II) (B)", "smiles": null, "role": "reactive"}, {"name": "alkyl radical (C)", "smiles": null, "role": "reactive"}, {"name": "benzylic radical from styrene addition (D)", "smiles": null, "role": "reactive"}, {"name": "Ar(alkyl-CH-Ar')-Ni(III)-I complex (E)", "smiles": null, "role": "transient"}, {"name": "Ni(I)Ln-I (F)", "smiles": null, "role": "reactive"}, {"name": "Ni(II)Ln(I)2 (G)", "smiles": null, "role": "transient"}], "electron_flow": "Cathode reduces Ni(II) to Ni(0) (A), which undergoes oxidative addition with ArI to give Ar-Ni(II) (B); Ni(I) (F) abstracts iodide from alkyl iodide to give alkyl radical (C) and Ni(II) (G); the alkyl radical adds to styrene forming benzylic radical (D) which combines with Ar-Ni(II) (B) to form Ni(III) (E); reductive elimination delivers the product and Ni(I) (F), while Ni(II) (G) is re-reduced at the cathode to Ni(0).", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Multicomponent product 4a abolished (0%); TEMPO-alkyl adduct 7 isolated in 13% from full system and 31% from alkyl iodide 3a alone, confirming alkyl radical intermediate"}, {"name": "DMPO (5,5-dimethyl-1-pyrroline N-oxide)", "smiles": "CC1(C)CC=[N+]1[O-]", "purpose": "radical_trap", "observation": "EPR spin-adduct observed (g = 2.00502, αN = 14.54 G, αH = 20.92 G) for 3a, 1a+3a, and 1a+2a+3a; 1a and 2a alone were EPR-inactive, confirming alkyl radical originates from alkyl iodide 3a"}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_other", "EPR"], "evidence_strength": "medium", "notes": "Tertiary alkyl bromides gave higher yields than tertiary alkyl iodides (63% vs 13%), suggesting halide identity influences radical generation efficiency. The alkyl radical adds preferentially to styrene to give the thermodynamically favored benzylic radical, which dictates regioselectivity of the two C-C bond formations (Csp3-Csp3 and Csp3-Csp2)."}
